US07312224B2
7.1 448 g of NaH are introduced into 9 l of DMF, then 967 g of cyanoacetamide are added in portions over the course of 1 hour at 2-8° with strong ice cooling and under a nitrogen atmosphere. The mixture is stirred for a further 30 minutes, 600 ml of 1-fluoro-2-nitrobenzene are added, and the mixture is stirred for a further 2 hours. The mixture is poured into 50 l of ice-water, acidified using 3 l of conc. HCl and subjected to further conventional work-up, giving 956 g of 2-cyano-2-(2-nitrophenyl)acetamide (“GA”), m.p. 172-174°.

reactant | NaH | [H-].[Na+]
reactant | cyanoacetamide | 967 g | C(#N)CC(=O)N | C3H4N2O
reactant | 1-fluoro-2-nitrobenzene | 600 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | 3 l | Cl | ClH
solvent | DMF | 9 l | CN(C)C=O | C3H7NO
product | 2-cyano-2-(2-nitrophenyl)acetamide | 956 g | C(#N)C(C(=O)N)C1=C(C=CC=C1)[N+](=O)[O-] | C9H7N3O3
